US06790867B2
Florfenicol/Flunixin Combination Formulations
The N-methyl-2-pyrrolidone, propylene glycol and approximately 90% of the PEG 300 required were charged to the compounding vessel and mixed well. The florfenicol and flunixin meglumine were added with mixing until all solids were dissolved. The volume was adjusted with the remaining PEG 300.

reactant | propylene glycol | C(C(C)O)O | C3H8O2
reactant | florfenicol | CS(=O)(=O)C=1C=CC(=CC1)[C@H]([C@@H](CF)NC(=O)C(Cl)Cl)O | C12H14Cl2FNO4S
reactant | flunixin meglumine | CC1=C(C=CC=C1NC2=C(C=CC=N2)C(=O)O)C(F)(F)F.CNC[C@@H]([C@H]([C@@H]([C@@H](CO)O)O)O)O
solvent | N-methyl-2-pyrrolidone | CN1C(CCC1)=O | C5H9NO
product | Florfenicol Flunixin | CS(=O)(=O)C=1C=CC(=CC1)[C@H]([C@@H](CF)NC(=O)C(Cl)Cl)O.CC1=C(C=CC=C1NC2=C(C=CC=N2)C(=O)O)C(F)(F)F | InChI=1S/C14H11F3N2O2.C12H14Cl2FNO4S/c1-8-10(14(15,16)17)5-2-6-11(8)19-12-9(13(20)21)4-3-7-18-12;1-21(19,20)8-4-2-7(3-5-8)10(17)9(6-15)16-12(18)11(13)14/h2-7H,1H3,(H,18,19)(H,20,21);2-5,9-11,17H,6H2,1H3,(H,16,18)/t;9-,10-/m.1/s1
